US04935431
(h) Ethyl 3-methoxy-7-chlorothieno[3,2-b]pyridine-6-carboxylate
3-Methoxy-6-ethoxycarbonylthieno[3,2-b]pyridin-7-(4H)-one (3 g, 0.0118 mol) and phosphorus oxychloride (10 ml) was heated under reflux for one hour. The reaction mixture was poured onto ice (200 g) and stirred for 30 minutes. The mixture was then basified with 40% sodium hydroxide solution and extracted with chloroform (3×100 ml). The chloroform extracts were combined, dried over magnesium sulphate, filtered and evaporated under reduced pressure to give the title compound as a buff-colour solid, 3.2 g, m.p. 135°-137°.

reactant | 3-Methoxy-6-ethoxycarbonylthieno[3,2-b]pyridin-7-(4H)-one | 0.0118 mol, 3 g | COC1=CSC2=C1NC=C(C2=O)C(=O)OCC | C11H11NO4S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | phosphorus oxychloride | 10 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | Ethyl 3-methoxy-7-chlorothieno[3,2-b]pyridine-6-carboxylate | COC1=CSC=2C1=NC=C(C2Cl)C(=O)OCC | C11H10ClNO3S
